US06127361
To a solution of 5.70 g (17.0 mmol) of (2R)-(+)-2-hydroxymethyl-1-[4'-methoxyphenyl (2-tetrahydropyranyloxy)ethyl]pyrrolidine and 4.74 ml of triethylamine (40.0 mmol) in dichloromethane (100 ml) was added 2.37 ml (30.6 mmol) of methanesulfonylchloride and the mixture was stirred at room temperature for 16 hours. The mixture was diluted with dichloromethane and the solution was washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by silicagel column chromatography ((ethyl acetate)) to give 5.01 g (80%) of (3S)-(-)-3-chloro-[4-methoxyphenyl(2-tetrahydropyranyl)ethyl]piperidine as yellow oil.

reactant | (2R)-(+)-2-hydroxymethyl-1-[4'-methoxyphenyl (2-tetrahydropyranyloxy)ethyl]pyrrolidine | 17.0 mmol, 5.70 g | OC[C@@H]1N(CCC1)CC(OC1OCCCC1)C1=CC=C(C=C1)OC | C19H29NO4
reactant | triethylamine | 40.0 mmol, 4.74 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 30.6 mmol, 2.37 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (3S)-(-)-3-chloro-[4-methoxyphenyl(2-tetrahydropyranyl)ethyl]piperidine | 5.01 g, 80% | Cl[C@@H]1CN(CCC1)CC(C1OCCCC1)C1=CC=C(C=C1)OC | C19H28ClNO2
